US07476665B2
Step E. 3-[2-(1-t-Butoxycarbonyl-4-piperidinylamino)ethyl]-2-aminopyridine
A solution of 3-(2-aminoethyl)-2-aminopyridine (0.122 g, 0.88 mmol) and 1-t-butoxycarbonyl 4-piperidone (0.177 g, 0.88 mmol) in dichloroethane (3 mL) containing 2 drops of acetic acid was treated with sodium triacetoxyborohydride (0.28 g, 1.33 mmol) at 20-75° C. until starting material was no longer consumed. The reaction was worked up with saturated sodium bicarbonate and methylene chloride, and dried over sodium sulfate. The crude product was purified by chromatography (silica gel, 0-10% {0.1% ammonium hydroxide in methanol) in methylene chloride, gradient elution) to produce the title compound (0.119 g) as a yellow oil. MS 321 (M+1).

reactant | 3-(2-aminoethyl)-2-aminopyridine | 0.88 mmol, 0.122 g | NCCC=1C(=NC=CC1)N | C7H11N3
reactant | 1-t-butoxycarbonyl 4-piperidone | 0.88 mmol, 0.177 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | sodium triacetoxyborohydride | 1.33 mmol, 0.28 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 3 mL | ClC(C)Cl | C2H4Cl2
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
product | 3-[2-(1-t-Butoxycarbonyl-4-piperidinylamino)ethyl]-2-aminopyridine | 0.119 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NCCC=1C(=NC=CC1)N | C17H28N4O2
